US04130663
N-(4-chlorostyryl)acetamidine treated with sodium hydroxide according to the procedure of Example 1 provides a 12% analytical yield of N-(4-CHLOROSTYRYL)ACETAMIDINE HYDROCHLORIDE, m.p. 228°-234.5° C. (corr.), from methanol-isopropyl ether.

reactant | N-(4-chlorostyryl)acetamidine | ClC1=CC=C(C=CNC(C)=N)C=C1 | C10H11ClN2
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(4-CHLOROSTYRYL)ACETAMIDINE HYDROCHLORIDE | Cl.ClC1=CC=C(C=CNC(C)=N)C=C1 | InChI=1S/C10H11ClN2.ClH/c1-8(12)13-7-6-9-2-4-10(11)5-3-9;/h2-7H,1H3,(H2,12,13);1H
